* Z:\home\agam\Github\misc\analog\assignment3\q6\q6.asc
* Generated by LTspice 24.1.7 for Windows.
VDD- VDD- 0 -10
VDD+ VDD+ 0 10
X§U1 0 N001 VDD+ VDD- Vout OP27
R2 Vout N001 1.5k
R1 N001 Vin 1K
R3 Vout 0 1k
C1 Vout N001 220n
V1 Vin 0 PULSE(-5 5 0 1n 1n 0.05m 0.1m) AC 1u
* .ac dec 1000 1 1Giga
.tran 0 5 0 1u
.lib ADI.lib
.backanno
.end
