* Z:\home\agam\Github\EE2301\sims\sim3\cs_mos.asc
* Generated by LTspice 24.1.7 for Windows.
I1 N001 Vout 10µ
M1 Vout N002 0 0 SIJA72ADP
V1 N001 0 5
V2 N002 0 1.38051
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.backanno
.end
