* Z:\home\agam\Github\EE2301\sims\sim3\mosfet_cd_ro.asc
* Generated by LTspice 24.1.7 for Windows.
M1 N001 N002 N003 N003 SIJA72ADP
V1 N001 0 5
R1 N001 N002 1k
R2 N002 0 1k
RS N003 0 1k
Cout Vout N003 220n
Vtest N004 0 AC 1
C1 N002 0 220n
R3 N004 Vout 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 1000 1 100G
* .op
* .tran 0 2m 1m 1u
.backanno
.end
